US06949571B2
3-(2-Cyanophenyl)-5-(4-methyl-imidazo[4.5-b]pyridin-2-yl)-1-phenyl-1,2-dihydropyridin-2-one
3 mg of 3-(2-cyanophenyl)-5-(1H-imidazo[4,5-c]pyridin-2-yl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 3 ml of acetone. To the mixture was added 2 ml of methyl iodide, followed by stirring at room temperature overnight. The mixture was evaporated, and the residue was diluted with 1 ml of water. To the mixture was added 20 mg of sodium hydroxide, followed by stirring at room temperature for 4 hours. The reaction solution was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated, and the residue was purified by silica gel chromatography (NH silica) (hexane/ethyl acetate system), to give 2 mg of the title compound.

reactant | 3-(2-cyanophenyl)-5-(1H-imidazo[4,5-c]pyridin-2-yl)-1-phenyl-1,2-dihydropyridin-2-one | 3 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C=1NC2=C(C=NC=C2)N1)C1=CC=CC=C1)=O | C24H15N5O
reactant | methyl iodide | 2 ml | CI | CH3I
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3-(2-Cyanophenyl)-5-(4-methyl-imidazo[4.5-b]pyridin-2-yl)-1-phenyl-1,2-dihydropyridin-2-one | 2 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=2C(N(C=CC2)C)=N1)C1=CC=CC=C1)=O | C25H17N5O
